US09422292B2
A solution of 7-bromo-4,5-dihydrospiro[benzo[b][1,4]diazepine-3,1′-cyclopropan]-2(1H)-one (267 mg, 1.0 mmol) and Lawesson's reagent (606 mg, 1.5 mmol) in tetrahydrofuran (15 mL) was heated to 80° C., and maintained at the same temperature for 1 hours. The mixture was concentrated. To the residue was added water (50 mL), extracted with ethyl acetate (50 mL). The organic phase was washed with water (50 mL*2), dried by sodium sulfate, filtered and concentrated to give a residue. The residue was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=6:1) to afford 7-bromo-4,5-dihydrospiro[benzo[b][1,4]diazepine-3,1′-cyclopropane]-2(1H)-thione (125 mg, 44%).

reactant | 7-bromo-4,5-dihydrospiro[benzo[b][1,4]diazepine-3,1′-cyclopropan]-2(1H)-one | 1.0 mmol, 267 mg | BrC1=CC2=C(NC(C3(CC3)CN2)=O)C=C1 | C11H11BrN2O
reactant | Lawesson's reagent | 1.5 mmol, 606 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 7-bromo-4,5-dihydrospiro[benzo[b][1,4]diazepine-3,1′-cyclopropane]-2(1H)-thione | 125 mg, 44% | BrC1=CC2=C(NC(C3(CC3)CN2)=S)C=C1 | C11H11BrN2S
